US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one
To a solution of crude (2-amino-6-{4-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-butoxy}-pyridin-3-ylmethyl)-carbamic acid tert-butyl ester in dioxane (15 mL) was added 3 N HCl (15 mL). The resulting mixture was refluxed for 2 hours, cooled to RT, then neutralized with saturated Na2CO3. The neutralized solution was extracted with EtOAc and the organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford the title compound as a brown oil (0.367 g, 94% over two steps). 1H NMR (400 MHz, CDCl3): δ 7.21–7.10 (m, 3H), 7.00–6.91 (m, 1H), 6.00 (d, 1H), 5.40–5.21 (br s, 2H), 4.12 (t, 2H), 3.82 (s, 2H), 3.71 (s, 2H), 3.19–2.98 (m, 4H), 2.81–2.55 (m, 4H), 2.50 (t, 2H), 1.91–1.43 (m, 4H). MS ES: m/z=424.00, 425.99.

reactant | (2-amino-6-{4-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-butoxy}-pyridin-3-ylmethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC=1C(=NC(=CC1)OCCCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl)N)=O | C25H35Cl2N5O3
reactant | HCl | 3 N, 15 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one | 0.367 g, 94% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC=1C=CC2=C(NC(NC2)=O)N1 | C21H25Cl2N5O2
